US03970664
A mixture of 3.3 g. of N-nitrosochlordiazepoxide, 30 ml. of ethanol, 3 ml. of triethylamine and 2 g. of acetyl hydrazide was refluxed for 24 hours. The solvent was removed and replaced by n-butanol. After additional 24 hours of reflux, the reaction mixture was evaporated. The residue was slurried with methylene chloride. The insoluble material was collected and recrystallized from methylene chloride/ethanol to yield 2-(2-acetylhydrazino)-7-chloro-5-phenyl-3H-1,4-benzodiazepine 4-oxide. The methylene chloride soluble part was chromatographed over 70 g. of silica gel using 10 percent ethanol in methylene chloride. Crystallization of the clean fractions from ethyl acetate yielded 8-chloro-1-methyl-6-phenyl-4H-s-triazolo[4,5-a][1,4]benzodiazepine 5-oxide with a melting point of 278°-282°.

reactant | N-nitrosochlordiazepoxide | CN(C1=NC2=C(C=C(C=C2)Cl)C(=[N+](C1)[O-])C3=CC=CC=C3)N=O | C16H13ClN4O2
reactant | ethanol | C(C)O | C2H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(2-acetylhydrazino)-7-chloro-5-phenyl-3H-1,4-benzodiazepine 4-oxide | C(C)(=O)NNC1=NC2=C(C(=[N+](C1)[O-])C1=CC=CC=C1)C=C(C=C2)Cl | C17H15ClN4O2
